US04302589
A stirred mixture of 11.6 g. of levulinic acid, 21.3 g. of 4-trifluoromethylphenylhydrazine hydrochloride, 125 ml. of ethanol and 10 ml. of concentrated sulfuric acid is heated under reflux for 24 hours. The reaction mixture is poured onto chopped ice and water. A precipitate forms and is collected by filtration to give ethyl-2-methyl-5-trifluoromethyl-3-indoleacetate.

reactant | levulinic acid | C(CCC(=O)C)(=O)O | C5H8O3
reactant | 4-trifluoromethylphenylhydrazine hydrochloride | Cl.FC(C1=CC=C(C=C1)NN)(F)F
reactant | ethanol | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | ethyl-2-methyl-5-trifluoromethyl-3-indoleacetate | C(C)OC(CC1=C(NC2=CC=C(C=C12)C(F)(F)F)C)=O | C14H14F3NO2
